US08304446B2
N-[(3-{[3-{[(5-Chloro-2-thienyl)sulfonyl]amino}-7-fluoro-4-(methyloxy)-1H-indazol-1-yl]methyl}phenyl)methyl]acetamide
N-[1-{[3-(aminomethyl)phenyl]methyl}-7-fluoro-4-(methyloxy)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide (for a preparation see Intermediate 46) (70 mg, 0.15 mmol) was dissolved in DCM (0.75 mL) and triethylamine (0.203 mL, 1.45 mmol) was added to the solution. The solution was stirred for 5 min and acetic anhydride (0.013 mL, 0.13 mmol) was added. The reaction was stirred for 1 h, and then concentrated under a stream of nitrogen. The residue was dissolved in MeOH-DMSO (1:1) (1 mL) and purified by Mass Directed AutoPrep on Sunfire C18 column using Acetonitrile Water with a TFA modifier (Method B). The solvent was evaporated in vacuo to give the title compound (26 mg, 34%): LCMS (System A) RT=1.04 min, ES+ve m/z 523/524 (M+H)+.

reactant | N-[1-{[3-(aminomethyl)phenyl]methyl}-7-fluoro-4-(methyloxy)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide | NCC=1C=C(C=CC1)CN1N=C(C2=C(C=CC(=C12)F)OC)NS(=O)(=O)C=1SC(=CC1)Cl | C20H18ClFN4O3S2
reactant | triethylamine | 1.45 mmol, 0.203 mL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.13 mmol, 0.013 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | DCM | 0.75 mL | C(Cl)Cl | CH2Cl2
product | N-[(3-{[3-{[(5-Chloro-2-thienyl)sulfonyl]amino}-7-fluoro-4-(methyloxy)-1H-indazol-1-yl]methyl}phenyl)methyl]acetamide | 26 mg, 34% | ClC1=CC=C(S1)S(=O)(=O)NC1=NN(C2=C(C=CC(=C12)OC)F)CC=1C=C(C=CC1)CNC(C)=O | C22H20ClFN4O4S2
